US08211885B2
1-Iodo-2-(3-methoxy-propoxy)-benzene
To a stirred solution of 2-iodophenol (3.00 g, 13.6 mmol), 3-methoxy-1-propanol (1.57 ml, 16.4 mmol) and triphenylphosphine (4.29 g, 16.4 mmol) in THF (15 ml) was added dropwise diisopropyl azodicarboxylate (3.22 ml, 16.4 mmol). The reaction mixture was stirred at room temperature overnight. The mixture was quenched with water and extracted with EA. The organic layer was separated, dried over sodium sulfate, filtered, and evaporated under reduced pressure: The residue was purified by silica gel chromatography (EA/HEP 1:5). 4.00 g of the title compound were obtained.

reactant | 2-iodophenol | 13.6 mmol, 3.00 g | IC1=C(C=CC=C1)O | C6H5IO
reactant | 3-methoxy-1-propanol | 16.4 mmol, 1.57 ml | COCCCO | C4H10O2
reactant | triphenylphosphine | 16.4 mmol, 4.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 16.4 mmol, 3.22 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-Iodo-2-(3-methoxy-propoxy)-benzene | 4.00 g | IC1=C(C=CC=C1)OCCCOC | C10H13IO2
